US05051413
A solution of 1.20 g of E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoicacid ethyl ester hydrochloride in 7 ml of water is stirred under reflux for20 hours. The reaction mixture is concentrated to dryness by evaporation invacuo. Ethanol is added to the residue, and the mixture is again concentrated by evaporation. This process is repeated twice more. The residue is dissolved in 25 ml of ethanol, a total of 5 ml of propylene oxide is added dropwise thereto with stirring, and the whole is concentrated to dryness by evaporation. The residue is dissolved in a little water, and ethanol is added until the solution becomes cloudy. The solution is stirred at room temperature for 4 hours to complete the reaction, during which time crystallisation slowly takes place. The product is filtered off, washed with ethanol and diethyl ether and dried at 100° under a high vacuum. In this manner there is obtained E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoic acid, m.p. 225°-227° (decomp.).

reactant | E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoicacid ethyl ester hydrochloride | 1.20 g | Cl.C(C)OC(C(\C=C(\CP(=O)(O)O)/C)NC(C)C)=O
solvent | water | 7 ml | O | H2O
product | E-2-isopropylamino-4-methyl-5-phosphono-3-pentenoic acid | C(C)(C)NC(C(=O)O)\C=C(\CP(=O)(O)O)/C | C9H18NO5P
